US04010177
In the manner given in Preparation 19, 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine in dimethylformamide is reacted at room temperature with propargylamine in the presence of potassium iodide to give 8-chloro-1-[[(2-propynyl)amino[methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 21 8-Fluoro-1-[[(2-propynyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl3N4
reactant | propargylamine | C(C#C)N | C3H5N
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | (2-propynyl)amino[methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C#C)C1(C=2N(C3=C(C(=N1)C1=C(C=CC=C1)Cl)C=CC=C3)C(=NN2)C)N | C20H16ClN5
